US04333928
A solution of 4.58 g of 17β-hydroxy-16α-methyl-4,9(10)-estradien-3-one (prepared according to 1[e]) in 200 ml of acetone is combined under ice water cooling dropwise with 8.5 ml of Jones reagent (J. Chem. Soc. [London] 1946, 39). The mixture is stirred, after this addition, at room temperature for 20 minutes, thereafter poured into water, and extracted with methylene chloride. The methylene chloride extracts are washed with saturated sodium chloride solution, dried over sodium sulfate, and concentrated. Crystallization from ethyl acetate/diisopropyl ether yields 4.3 g of 16α-methyl-4,9(10)-estradiene-3,17-dione, m.p. 140°-143° C.

reactant | 17β-hydroxy-16α-methyl-4,9(10)-estradien-3-one | 4.58 g | O[C@@H]1[C@]2(C)[C@@H](C[C@H]1C)[C@@H]1CCC3=CC(CCC3=C1CC2)=O | C19H26O2
reactant | Jones reagent | 8.5 ml | CC(=O)C.OS(=O)(=O)O.O=[Cr](=O)=O
reactant | water | O | H2O
solvent | acetone | 200 ml | CC(=O)C | C3H6O
product | 16α-methyl-4,9(10)-estradiene-3,17-dione | 4.3 g | C[C@H]1C([C@]2(C)[C@@H](C1)[C@@H]1CCC3=CC(CCC3=C1CC2)=O)=O | C19H24O2
